US07456186B2
Preparation of 8-(3-Bromo-4-fluorophenyl)-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-ylamine
A mixture of 1-(3-bromo-4-fluorophenyl)-1-(tetrahydropyrimidin-2-yl)-1-[4-(trifluoromethoxy)phenyl]methylamine (0.85 g, ˜80% purity, ˜1.52 mmol) and cyanogen bromide (0.81 g, 7.62 mmol) in acetonitrile is stirred at room temperature for 45 min, heated at 100° C. in a sealed tube overnight, cooled to room temperature and concentrated. The resultant residue is purified by flash chromatography (silica, 95:5:0.25 methylene chloride/methanol/concentrated ammonium hydroxide as eluent) to afford the title compound as a tan solid, 0.26 g (36% yield), identified by NMR and mass spectral analyses. 1H NMR (300 MHz, CDCl3) δ 7.74 (dd, J=6.7, 2.3 Hz, 1H), 7.49 (dd, J=6.7, 2.1 Hz, 2H), 7.38 (m, 1H), 7.13 (d, J=8.1 Hz, 2H), 7.03 (t, J=8.5 Hz, 1H), 3.58 (m, 4H), 1.86 (m, 2H); ESI MS m/z 471 [C19H15BrF4N4O+H]+.

reactant | 1-(3-bromo-4-fluorophenyl)-1-(tetrahydropyrimidin-2-yl)-1-[4-(trifluoromethoxy)phenyl]methylamine | ˜1.52 mmol, 0.85 g | BrC=1C=C(C=CC1F)C(C1=CC=C(C=C1)OC(F)(F)F)(C1NC=CCN1)N | C18H16BrF4N3O
reactant | cyanogen bromide | 7.62 mmol, 0.81 g | N#CBr | CBrN
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-(3-Bromo-4-fluorophenyl)-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-ylamine | 36% yield | BrC=1C=C(C=CC1F)C1(N=C(N2C1=NCCC2)N)C2=CC=C(C=C2)OC(F)(F)F | C19H15BrF4N4O
